US07834039B2
To a solution of 4-fluoro-3-(trifluoromethyl)benzonitrile (15 g, 79 mmol) in dimethylsulfoxide (160 mL) was added morpholine (13.8 mL, 159 mmol) and potassium carbonate (16.4 g, 119 mmol). The mixture was heated at about 90° C. for 18 hours. The mixture was cooled to ambient temperature and the solid was removed by filtration. The fitrate was partitioned between ethyl acetate (1.8 L) and water (1.5 L). The organic layer was washed with water (1.0 L) and brine (1.0 L) and dried over anhydrous magnesium sulphate. The solvent was removed in vacuo to give 4-morpholino-3-(trifluoromethyl)benzonitrile (17.25 g, 85%). 1H NMR (DMSO-d6, 400 MHz) δ 8.18 (d, J=2.05 Hz, 1H), 8.09 (dd, J=8.51, 2.06 Hz, 1H), 7.60 (d, J=8.52 Hz, 1H), 3.69-3.75 (m, 4H), 2.97-3.04 (m, 4H).

reactant | 4-fluoro-3-(trifluoromethyl)benzonitrile | 79 mmol, 15 g | FC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | morpholine | 159 mmol, 13.8 mL | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 119 mmol, 16.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 160 mL | CS(=O)C | C2H6OS
product | 4-morpholino-3-(trifluoromethyl)benzonitrile | 17.25 g, 85% | O1CCN(CC1)C1=C(C=C(C#N)C=C1)C(F)(F)F | C12H11F3N2O
